US05559125
To a solution of methyl 2-(3-iodophenylacetamido)-4-chlorobenzoate (m.p. 100°-101° C.; prepared by the general procedure described above; 860 mg, 2 mmol) in triethylamine (20 ml) and tetrahydrofuran (5 ml), was added copper (I) iodide (5 mg), bis(triphenylphosphine)palladium (II) dichloride (20 mg) and phenylacetylene (0.33 ml, 306 mg, 3 mmol), and the mixture stirred overnight at room temperature and then for 5 h at reflux. The solvents were removed, the residue partitioned between ethyl acetate (30 ml) and aqueous citric acid (10%, 25 ml), and the organic layer washed with water (25 ml) and brine (25 ml). After drying (MgSO4), the solution was evaporated and the residue subjected to chromatography on silica gel (4:1 petrol-ethyl acetate as eluant) to afford methyl 4-chloro-2-(3-phenylethynylphenyl)acetamidobenzoate as a colourless gum (824mg); δH (CDCl3) 3.75 (2H, s, --CH2 --), 3.87 (3H, s, CO2Me), 7.03 (1H, dd, J 9.4 and 2.1 Hz, 5-H), 7.33-7.38 (5H, m, ArH), 7.48-7.55 (4H, m, ArH), 7.91 (1H, d, J 9.4 Hz, 6-H), 8.82 (1H, d, J 2.1 Hz, 3-H), and 11.14 (1H, br s, --NHCO--).

reactant | methyl 2-(3-iodophenylacetamido)-4-chlorobenzoate | IC=1C=C(C=CC1)CC(=O)NC1=C(C(=O)OC)C=CC(=C1)Cl | C16H13ClINO3
reactant | phenylacetylene | 3 mmol, 0.33 ml, 306 mg | C1(=CC=CC=C1)C#C | C8H6
solvent | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
catalyst | copper (I) iodide | 5 mg | [Cu]I
catalyst | bis(triphenylphosphine)palladium | 20 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
product | methyl 4-chloro-2-(3-phenylethynylphenyl)acetamidobenzoate | 824mg | ClC1=CC(=C(C(=O)OC)C=C1)NC(CC1=CC(=CC=C1)C#CC1=CC=CC=C1)=O | C24H18ClNO3
